US06809110B2
In analogy to the procedure described in example 10 d], 3-(4-{3-[1,3]dioxan-2-yl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-2-methyl-phenyl)-2-ethoxy-propionic acid ethyl ester (mixture of two diastereomeric racemates) was treated with LiOH to obtain 3-(4-{3-[1,3] dioxan-2-yl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-2-methyl-phenyl)-2-ethoxy-propionic acid as a mixture of two diastereomeric racemates as colorless liquid.

reactant | 3-(4-{3-[1,3]dioxan-2-yl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-2-methyl-phenyl)-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OC(CCC1OCCCO1)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C)OCC)=O | C32H38F3NO6S
reactant | LiOH | [Li+].[OH-]
product | 3-(4-{3-[1,3] dioxan-2-yl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-2-methyl-phenyl)-2-ethoxy-propionic acid | O1C(OCCC1)CCC(OC1=CC(=C(C=C1)CC(C(=O)O)OCC)C)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C30H34F3NO6S
